US05569768
5-(2-Cyanophenyl)indole (5.04 moles, 1.1 g) in 70 ml THF was treated with sodium hydride (255 mg, 50% in mineral oil) and stirred at 0° C. for 30 minutes. Ethyl 2-bromooctanoate (5.5 moles) in 40 ml THF was added dropwise. The reaction was stirred at room temperature for 4 hours, cooled, poured onto ice, extracted with ethyl acetate. The organic phase was dried and concentrated. The intermediate was chromatographed over silica gel eluted with 20% ether in hexane. The reaction yielded 1.1 g of ethyl 2-[5-(2-cyanophenyl)indol-1-yl]octanoate. (MS)

reactant | 5-(2-Cyanophenyl)indole | 5.04 moles, 1.1 g | C(#N)C1=C(C=CC=C1)C=1C=C2C=CNC2=CC1 | C15H10N2
reactant | sodium hydride | 255 mg | [H-].[Na+]
reactant | Ethyl 2-bromooctanoate | 5.5 moles | BrC(C(=O)OCC)CCCCCC | C10H19BrO2
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | ethyl 2-[5-(2-cyanophenyl)indol-1-yl]octanoate | 1.1 g | C(#N)C1=C(C=CC=C1)C=1C=C2C=CN(C2=CC1)C(C(=O)OCC)CCCCCC | C25H28N2O2
